US07173023B2
A solution of 70 mg (0.23 mmol) of 7-(3-fluoro-benzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride [Example 1c)] in 1 ml of acetone was successively treated with 69 mg (0.5 mmol) of potassium carbonate and 24 mg (0.25 mmol) of 2-chloroacetamide. The reaction mixture was heated to reflux during 18 h. For the working-up, 1 g of silica gel was added to the cooled reaction mixture, which was then evaporated under reduced pressure. For purification, the crude material obtained was chromatographed on silica gel using a 95:5:0.1-mixture of dichloromethane, methanol and ammonium hydroxide as the eluent. There were obtained 38 mg (51% of theory) of 2-[7-(3-fluoro-benzyloxy)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-acetamide as a white solid; MS: m/e 329 (M+H)+.

reactant | 7-(3-fluoro-benzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | 0.23 mmol, 70 mg | Cl.FC=1C=C(COC2=CC3=C(CCNCC3)C=C2)C=CC1
reactant | potassium carbonate | 0.5 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroacetamide | 0.25 mmol, 24 mg | ClCC(=O)N | C2H4ClNO
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 2-[7-(3-fluoro-benzyloxy)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-acetamide | 38 mg, 51% | FC=1C=C(COC2=CC3=C(CCN(CC3)CC(=O)N)C=C2)C=CC1 | C19H21FN2O2
